US05478384
That is, 2,5-diaminobenzenesulfonic acid is acetylated with acetic anhydride to obtain 2-amino-5-acetylaminobenzenesulfonic acid, which is then diazotized in an ordinary manner and coupled with 1,7-Cleve's acid to thereby obtain the compound [A] shown below.

reactant | 2,5-diaminobenzenesulfonic acid | NC1=C(C=C(C=C1)N)S(=O)(=O)O | C6H8N2O3S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-amino-5-acetylaminobenzenesulfonic acid | NC1=C(C=C(C=C1)NC(C)=O)S(=O)(=O)O | C8H10N2O4S
